US05654299
(S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(2-hydroxyphenyl)piperidino]butyl]-N-methylbenzamide hydrochloride
Using a procedure similar to that described in Example 1 (alternative preparation), except using 4-(2-hydroxyphenyl)piperidine and (S)-N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methylbenzamide, the title compound was prepared. Chromatography, eluting with dichloromethane:methanol, followed by conversion to the hydrochloride salt gave a white solid; mp 205°-210° C.; MS: 511; NMR (CD3OD): 1.7-2.3 (m, 6), 2.7 (s, 1), 2.8-3.1 (m, 6), 3.2-3.8 (m, 5), 6.7-6.8 (m, 2), 7.0 (t, J=7, 3), 7.2 (br, 2), 7.4 (br, 2), 7.4 (br, 4), 7.5-7.7 (m, 2), 9.5 (s, 10), 10.5 (s, 1). Analysis for C29H32Cl2N2O2 ·1.0 HCl·0.75 H2O: Calculated: C, 62.04; H, 6.19; N, 4.99; Found: C, 62.24; H, 6.15; N, 5.08.

reactant | 4-(2-hydroxyphenyl)piperidine | OC1=C(C=CC=C1)C1CCNCC1 | C11H15NO
reactant | (S)-N-[2-(3,4-dichlorophenyl)-4-oxobutyl]-N-methylbenzamide | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CC=O | C18H17Cl2NO2
solvent | H2O | O | H2O
product | (S)-N-[2-(3,4-Dichlorophenyl)-4-[4-(2-hydroxyphenyl)piperidino]butyl]-N-methylbenzamide hydrochloride | Cl.ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)C1=C(C=CC=C1)O | InChI=1S/C29H32Cl2N2O2.ClH/c1-32(29(35)22-7-3-2-4-8-22)20-24(23-11-12-26(30)27(31)19-23)15-18-33-16-13-21(14-17-33)25-9-5-6-10-28(25)34;/h2-12,19,21,24,34H,13-18,20H2,1H3;1H/t24-;/m1./s1
